US07723378B2
To a solution of 3-[3-chloro-4-(3-hydroxy-propoxy)-5-methoxy-phenyl]-1-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-propan-1-one (170 mg, 0.38 mmol) in DCM (10 mL) and DIPEA (0.10 mL, 0.60 mmol) is added methane sulfonylchloride (0.04 mL, 0.45 mmol) at 0° C. The reaction mixture is stirred at 0° C. for 30 min. Another portion of methane sulfonylchloride (0.04 mL, 0.45 mmol) is added and stirring is continued for 20 min. The reaction mixture is diluted with DCM, washed with 0.1 N aq. NaOH followed by 10% aq. citric acid solution, dried over MgSO4 and evaporated to give methanesulfonic acid 3-{2-chloro-6-methoxy-4-[3-oxo-3-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-propyl]-phenoxy}-propyl ester (196 mg) as a yellow oil; LC-MS: tR=1.17 min, [M+1]+=529.17.

reactant | 3-[3-chloro-4-(3-hydroxy-propoxy)-5-methoxy-phenyl]-1-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-propan-1-one | 0.38 mmol, 170 mg | ClC=1C=C(C=C(C1OCCCO)OC)CCC(=O)C=1SC(=C2C1CCC(C2)(C)C)C | C24H31ClO4S
reactant | DIPEA | 0.60 mmol, 0.10 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methane sulfonylchloride | 0.45 mmol, 0.04 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methane sulfonylchloride | 0.45 mmol, 0.04 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 3-{2-chloro-6-methoxy-4-[3-oxo-3-(3,5,5-trimethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-propyl]-phenoxy}-propyl ester | 196 mg | ClC1=C(OCCCOS(=O)(=O)C)C(=CC(=C1)CCC(C=1SC(=C2C1CCC(C2)(C)C)C)=O)OC | C25H33ClO6S2
